US06066658
Ethyl 4,5,6,7-tetrahydro-4-oxo-3-propylthiobenzo[c]thiophene-1-carboxylate (25.29 g) was dissolved in chloroform (380 ml); a solution of bromine (13.81 g) in chloroform (20 ml) was added dropwise at room temperature over a period of 20 minutes. After the reaction mixture was stirred at room temperature for 40 minutes, it was washed with a 2% aqueous solution of sodium sulfite (400 ml), water, a saturated aqueous solution of sodium hydrogen carbonate and water in that order, and dried (MgSO4), after which the solvent was distilled off to yield ethyl 5-bromo-4,5,6,7-tetrahydro-4-oxo-3-propylthiobenzo[c]thiophene-1-carboxylate (29.07 g, 90.9%), which was then recrystallized from ethyl acetate-hexane. Light-yellow prisms. Melting point 93-94° C.

reactant | Ethyl 4,5,6,7-tetrahydro-4-oxo-3-propylthiobenzo[c]thiophene-1-carboxylate | 25.29 g | O=C1CCCC2=C(SC(=C21)SCCC)C(=O)OCC | C14H18O3S2
reactant | bromine | 13.81 g | BrBr | Br2
solvent | chloroform | 380 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 5-bromo-4,5,6,7-tetrahydro-4-oxo-3-propylthiobenzo[c]thiophene-1-carboxylate | 29.07 g, 90.9% | BrC1C(C=2C(=C(SC2SCCC)C(=O)OCC)CC1)=O | C14H17BrO3S2
